Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weakness and shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old HIV (last CD4 count of 114) with KS, EtOH abuse with 
multiple psych admissions, recent PE (___) discharged with 
Lovenox, here with palpitations and shortness of breath. 
Increased SOB with exertion and palps present for ___ days. Took 
extra dose of lovenox yesterday bc concerned for PE but it didnt 
help so he came to ED. Sx similar to those he experienced with 
prior hosp for PE. Compliant with lovenox but dose recently 
changed from 80mg BID to ___ daily. Admits to alcohol use 
daily with ___ drinks that are "large glasses" with half vodka, 
half cranberry juice. Last drink yesterday. Does have a h/o 
withdrawal sx. No illicit drug use.  
___ the ED, initial VS 98.6, 149/92, 136, 16, 93% RA.  
Labs significant for Hct 38.6, plats 126, WBC 4.0. PTT 50.3, INR 
0.8, Tox screen pos for EtoH with level 360. CHEM-7 WNL but with 
gap of 18. Trop neg. Lactate 4.6 --> 3.9. CXR unremarkable. EKG: 
sinus @ 123, NA/NI, no st changes from prior. No CTA obtained 
given known PEs but started heparin drip with no bolus (given 
"extra" lovenox") and admitted to floor for further mgmt. VS on 
transfer 98.5, 137/78, 108, 20, 96%.  
On arrival to floor, VS 98.3, 132/90, 99, 18, 93% on 2.5L NC. Pt 
feels comfortable.  
REVIEW OF SYSTEMS:  
(+) per HPI plus admits to chills, subjective fevers, loss of 
appetite, nausea, and productive cough  
(-) vomiting, hemoptysis, CP, diarrhea, hematochezia  

 
Past Medical History:
--HIV: diagnosed ___ ___ setting of Cryptosporidium diarrhea,
CD4 19, viral load 133,000. Treatment ___: D4t, 3TC,
efavirenz (had resistant mutations K103N, M184V) ___:
3TC/TDF, atazanavir/rtv
--Kaposis sarcoma of feet and ___, stage I-II per bx and CXR 
--Sialadenitis: resolved
--ASCUS on anal pap smear: high res biopsies then neg
--Hepatitis B infection: cleared
--Pulmonary Emboli: dx'ed ___
--Mesenteric mass: ___
--Mod-severe Mitral Regurgitation
--H/o positive PPD with CXR negative ___ ___, repeat PPD 
negative
___
 
Social History:
___
Family History:
Father was alcoholic and paternal uncle was an 
alcoholic who became sober by AA. Denies CVD or DM hx.

 
Physical Exam:
VS - 98.3, 132/90, 99, 18, 93% on 2.5L NC  
GENERAL - comfortable male, NAD, central obesity/peripheral 
wasting  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, harsh ___ murmur heard over 
entire precordium with both systolic and diastolic components, 
nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - Red papules periumbilical with scab  

DISCHARGE EXAM
VS: T m 98.8 Tc 98.2 HR 84 BP 126/74 RR 20 O2 96%RA
GENERAL - comfortable, NAD
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use
HEART - Reg rhyth, harsh ___ murmur heard over entire precordium 
, loudest apex radiating to axilla, with both systolic and 
diastolic components, S1-S2 not appreciated
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding, periumbilical papules
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, 
DPs), feet with sensation intact, good cap refil
SKIN - Red papules periumbilical with scab
 
Pertinent Results:
___ 01:50AM BLOOD WBC-4.0# RBC-3.33* Hgb-13.4* Hct-38.6* 
MCV-116* MCH-40.1* MCHC-34.7 RDW-14.5 Plt ___
___ 01:50AM BLOOD Glucose-97 UreaN-13 Creat-0.8 Na-143 
K-3.9 Cl-101 HCO3-24 AnGap-22*
___ 10:30AM BLOOD ALT-74* AST-67* LD(LDH)-181 AlkPhos-48 
TotBili-1.0
___ 03:30PM BLOOD LD(LDH)-171
___ 01:50AM BLOOD proBNP-27
___ 01:50AM BLOOD cTropnT-<0.01
___ 03:30PM BLOOD CK-MB-4 cTropnT-<0.01
___ 01:50AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:56AM BLOOD Lactate-4.6*
___ 04:26AM BLOOD Lactate-3.9*
___ 03:35PM BLOOD Lactate-1.2
___ 12:47PM URINE RBC-1 WBC-5 Bacteri-NONE Yeast-NONE Epi-0

MICRO
___ URINE CULTURE-FINAL negative
___ 11:28 am SPUTUM      Source: Induced. 

   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Preliminary): 
      MODERATE GROWTH Commensal Respiratory Flora. 

   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii).

ECHO ___
This study was compared to the prior study of ___.  
LEFT ATRIUM: Mild ___. 

LEFT VENTRICLE: Normal LV wall thickness, cavity size and 
regional/global systolic function (LVEF >55%). No resting LVOT 
gradient. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal aortic diameter at the sinus level. Normal 
ascending aorta diameter. No 2D or Doppler evidence of distal 
arch coarctation. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
Mild (1+) AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. 
Moderate/severe MVP. Late systolic MR ___. Moderate to severe 
(3+) MR. 

___ VALVE: Normal tricuspid valve leaflets. Mild [1+] TR. 
Normal PA systolic pressure. 

PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not visualized. 
No PS. Physiologic PR. 

PERICARDIUM: No pericardial effusion.  
Conclusions  
The left atrium is mildly dilated. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is moderate/severe posterior leaflet mitral 
valve prolapse. A late systolic jet of Moderate to severe (3+) 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

IMPRESSION: Moderate to severe prolapse of the posterior leaflet 
of the mitral valve with moderate to severe mid-systolic mitral 
regurgitation. Mild elevation of pulmonary artery systolic 
pressure.

Compared with the prior study (images reviewed) of ___, 
estimated pulmonary pressures are slightly lower. The other 
findings are similar.   

CXR ___
  
FINDINGS:  The lungs are clear with no evidence of 
consolidation, effusion, or 
pneumothorax.  Cardiomediastinal silhouette is at the upper 
limits of normal.  
No acute fractures are identified. 
  
IMPRESSION:  No acute cardiopulmonary process. 
  
DISCHARGE LABS

___ 06:05AM BLOOD WBC-1.5* RBC-2.90* Hgb-11.3* Hct-34.2* 
MCV-118* MCH-39.0* MCHC-33.1 RDW-14.8 Plt Ct-55*
___ 06:05AM BLOOD Glucose-81 UreaN-10 Creat-0.7 Na-140 
K-3.6 Cl-103 HCO3-27 AnGap-14
 
Brief Hospital Course:
# Hypoxemia: Most likely progression of PE. Infectious workup 
negative for PCP (sputum smear), clear CXR, sputum grew 
contaminate without clear organism, urine negative. PE 
workup/treatment as below. Patient was monitored on tele with 
cont O2 monitoring.

# Chronic PE: Presented with hypoxia and dyspnea on exertion and 
weakness. History of unprovoked ___ ___, readmitted ___, 
Atrius heme consult at that time reduced Lovenox to 100mg daily 
for improved compliance, patient reports compliance on that 
regimen, but complicated by memory loss that he states is from 
his Effexor (see psych below). EKG without R heart strain, BNP 
normal, hemodynamically stable except with sinus tachycardia. 
Trops negative x2, echo w/o R heart strain or pul HTN. Patient 
continued to require supplemental O2 with exertion and was 
discharged with home O2, although on the day of discharge he was 
noted to ambulate three flights of stairs without dropping sats 
below 90. 

# Lactic acidosis: Resolved with IVFs, likely be ___ etoh and 
volume depletion. 

# EtOH dependence with intoxication/withdrawal: h/o EtOH with 
withdrawal, no history of seizures. Last drink ___, 
Received 40mg Valium on the floor, scoring 0 on CIWA at 
discharge.
Continued on B12, thiamine, MVI, folic acid. He had a social 
work consult and was given info for outpatient rehab. Naltrexone 
was increased to 100mg qHS.

# HIV: Patient had pancytopenia ___ house approximating prior 
counts. Continued on HAART and atovaquone. He has not been 
compliant with atovaquone due to taste, and he was encouraged to 
adhere. PCP workup negative for sputum smear.  

# Psych/Depression: Multiple hospitalizations, most recently 
___ for SI, not currently reporting SI. He reports memory 
loss as contributing to medication non adherence. He was changed 
to duloxetine, continued on Seroquel.

# Mesenteric Mass: Approx 4.5 x 3.5 x 6.3cm mass at jejunal 
mesentery, first noted ___, per radiology Ddx includes 
carcinoid tumor, chronic sclerosing mesenteritis, amyloidosis, 
calcified metastatic implants, and peritoneal echinococcus. 
Patient is planned for octreotide scan but has not shown for 
appointments.  He is aware that this needs to be followed up.

TRANSITIONAL ISSUES:
- Changed Lovenox from 100mg daily to 80mg bid
- Changed Naltrexone to 100mg qhs
- Started Duloxetine
- Stopped Venlafaxine
- Will need outpatient follow up for abd mass- octreotide scan. 
- Will need continued ___ rehab

PENDING LABS:
- Beta glucan and galactomannin - negative/normal
- Blood cultures no growth to date
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atazanavir 300 mg PO DAILY 
2. Atovaquone Suspension 1500 mg PO DAILY 
3. Cyanocobalamin 250 mcg PO DAILY 
4. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
5. Enoxaparin Sodium 100 mg SC Q 24H 
6. Quetiapine Fumarate 50 mg PO QHS 
7. RiTONAvir 100 mg PO DAILY 
8. Venlafaxine XR 150 mg PO DAILY 
9. naltrexone *NF* 50 mg Oral daily 
10. Thiamine 100 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1. Atazanavir 300 mg PO DAILY 
2. Atovaquone Suspension 1500 mg PO DAILY 
3. Cyanocobalamin 250 mcg PO DAILY 
4. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
5. Enoxaparin Sodium 80 mg SC BID 
RX *enoxaparin 80 mg/0.8 mL 1 injection twice daily twice a day 
Disp #*30 Syringe Refills:*3
6. naltrexone *NF* 100 mg Oral qhs Reason for Ordering: to 
address alcohol cravings
RX *naltrexone 50 mg 2 tablet(s) by mouth daily before bed Disp 
#*60 Tablet Refills:*0
7. Quetiapine Fumarate 50 mg PO QHS 
8. RiTONAvir 100 mg PO DAILY 
9. Thiamine 100 mg PO DAILY 
10. Duloxetine 60 mg PO DAILY 
RX *duloxetine [Cymbalta] 60 mg 1 capsule(s) by mouth once daily 
Disp #*30 Capsule Refills:*0
11. FoLIC Acid 1 mg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Supplemental Oxygen
Patient requires two liters per minute continuous O2 via nasal 
canula to maintain a saturation of greater than 88% on room air 
while ambulating. Conserving device for portability. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Progression of pulmonary embolism
Alcohol intoxication

Secondary diagnosis:
HIV infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Followup Instructions:
___